US07378418B2
21A. Preparation of 2-(2-(7,8-Bis(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)ethyl)isoindoline-1,3-dione
A solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (290 mg, 0.81 mmol), prepared as described in Example 1, N-(2-bromoethyl)phthalimide (215 mg, 0.84 mmol) and K2CO3 (337 mg, 2.44 mmol) in DMF (3 ml), was heated at 80° C. for 2.5 hours. After this time, the reaction mixture was cooled to RT and diluted with ethyl acetate. The resultant solution was then washed with water. The organic layer was dried over Na2SO4, filtered and concentrated. The crude material was purified using silica gel column chromatography using an automated system eluting with a 1:1 mixture of ethyl acetate:hexane to give the title compound, 2-(2-(7,8-bis(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)ethyl)isoindoline-1,3-dione as a yellow solid (290 mg, 68%). MS M+H=530.

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.81 mmol, 290 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | N-(2-bromoethyl)phthalimide | 0.84 mmol, 215 mg | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | K2CO3 | 2.44 mmol, 337 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-(7,8-bis(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)ethyl)isoindoline-1,3-dione | 290 mg, 68% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CCN2C(C1=CC=CC=C1C2=O)=O)=O)C2=CC=C(C=C2)Cl | C27H17Cl2N5O3
